US08222274B2
A 500 mg portion of benzyl 2-methyl-5-phenyl-1H-pyrrole-3-carboxylate was dissolved in 10 ml of tetrahydrofuran, and 79 mg of sodium hydride (55% dispersion in oil) was added under ice-cooling, followed by stirring at room temperature for 30 minutes. A 0.357 ml portion of benzyl chloromethyl ether was added dropwise to this solution under ice-cooling, followed by stirring at room temperature for 1.5 hours. After adding water under ice-cooling, extraction was carried out with ethyl acetate. Then, after washing with saturated brine and then drying with anhydrous sodium sulfate, the solvent was evaporated under a reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:10-1:8) to obtain 503 mg of benzyl 1-[(benzyloxy)methyl]-2-methyl-5-phenyl-1H-pyrrole-3-carboxylate as a colorless liquid.

reactant | benzyl 2-methyl-5-phenyl-1H-pyrrole-3-carboxylate | CC=1NC(=CC1C(=O)OCC1=CC=CC=C1)C1=CC=CC=C1 | C19H17NO2
reactant | sodium hydride | 79 mg | [H-].[Na+]
reactant | benzyl chloromethyl ether | ClCOCC1=CC=CC=C1 | C8H9ClO
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | benzyl 1-[(benzyloxy)methyl]-2-methyl-5-phenyl-1H-pyrrole-3-carboxylate | 503 mg | C(C1=CC=CC=C1)OCN1C(=C(C=C1C1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)C | C27H25NO3
